US07141596B2
Step 7. Synthesis of 3-bromo-4-(1,1-dioxido-3-oxo-2-[2-(trimethylsilyl)ethoxy]-methylisothiazolidin-5-yl)benzyl acetate
3-Bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl acetate (175 mg, 0.483 mmol) was dissolved in acetonitrile (1.0 mL) and N,N-diisopropylethylamine (126 μL, 0.725 mmol) was added followed by [β-(trimethylsilyl)ethoxy]methyl chloride (103 μL, 0.580 mmol), and the reaction was heated at 50° C. for 1 h. Reaction solution was cooled to room temperature and transferred to separatory funnel, partitioned between 0.1 N HCl solution and ethyl acetate, aqueous phase was washed with ethyl acetate. The combined organic phase was washed with saturated sodium chloride, dried over sodium sulfate and concentrated to give a yellow oil. This material was chromatographed (12 g column, 0–20% ethyl acetate/hexanes) to give the product as an oil (193 mg, 81%). 1H NMR (400 MHz, CDCl3): δ 7.70 (s, 1H), 7.37 (m, 2H), 5.53 (dd, J=8.0, 6.5 Hz, 1H), 5.06 (m, 4H), 3.65 (m, 2H), 3.49 (dd, J=17.4, 8.0 Hz, 1H), 3.23 (dd, J=17.4, 6.5 Hz, 1H), 2.13 (s, 3H), 0.95 (m, 2H), 0.0 (s, 9H).

reactant | 3-Bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl acetate | 0.483 mmol, 175 mg | C(C)(=O)OCC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)Br | C12H12BrNO5S
reactant | N,N-diisopropylethylamine | 0.725 mmol, 126 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | [β-(trimethylsilyl)ethoxy]methyl chloride | 0.580 mmol, 103 μL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | 3-bromo-4-(1,1-dioxido-3-oxo-2-[2-(trimethylsilyl)ethoxy]-methylisothiazolidin-5-yl)benzyl acetate | 193 mg, 81% | C(C)(=O)OCC1=CC(=C(C=C1)C1C(C(N(S1(=O)=O)OCC[Si](C)(C)C)=O)C)Br | C18H26BrNO6SSi
